US08754114B2
3-(Cyanomethyl)-N-phenyl-3-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)azetidine-1-carboxamide
Phenyl isocyanate (5.4 mg, 0.045 mmol) was added to a mixture of N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (15.0 mg, 0.0303 mmol) and triethylamine (13 μL, 0.093 mmol) in N,N-dimethylformamide (0.5 mL) and methanol (0.1 mL). The reaction mixture was stirred at r.t. for 2 h. The mixture was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=615.2.

reactant | Phenyl isocyanate | 0.045 mmol, 5.4 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 0.0303 mmol, 15.0 mg | C(#N)CC1(CNC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H20F3N9O
reactant | triethylamine | 0.093 mmol, 13 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | methanol | 0.1 mL | CO | CH4O
product | 3-(Cyanomethyl)-N-phenyl-3-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)azetidine-1-carboxamide | C(#N)CC1(CN(C1)C(=O)NC1=CC=CC=C1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F | C30H25F3N10O2
